US04595700
2-(2-methylpropyl)-but-2-enoic acid (37 g, 0.261M) prepared as described in Example 1 in dry dichloromethane (200 ml) and N-methyl morpholine (65 ml) was treated at -5° C. with oxalyl chloride (33.2 g, 0.261M) over 30 minutes. The mixture was heated under reflux for 10 minutes, then re-cooled to ca -60° C. and O-methyl-L-tyrosine N-methylamide (51 g, 0.245M) in dry dichloromethane (100 ml) added over 30 minutes. The mixture was left to warm up to room temperature over ca 1 hour, diluted with more dichloromethane then washed with aqueous sodium hydroxide (0.1N), aqueous saturated sodium hydrogen carbonate solution and saturated brine. The organic extract was dried, then evaporated in vacuo to afford N-[2-(2-methylpropyl)-but-2-enoyl]-O-methyl-L-tyrosine-N-methylamide as a yellow gum (81 g).

reactant | 2-(2-methylpropyl)-but-2-enoic acid | 0.261M, 37 g | CC(CC(C(=O)O)=CC)C | C8H14O2
reactant | N-methyl morpholine | 65 ml | CN1CCOCC1 | C5H11NO
reactant | oxalyl chloride | 0.261M, 33.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | O-methyl-L-tyrosine N-methylamide | 0.245M, 51 g | CNC([C@@H](N)CC1=CC=C(C=C1)OC)=O | C11H16N2O2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-[2-(2-methylpropyl)-but-2-enoyl]-O-methyl-L-tyrosine-N-methylamide | 81 g | CNC([C@@H](NC(C(=CC)CC(C)C)=O)CC1=CC=C(C=C1)OC)=O | C19H28N2O3
